US06300342B1
1-[3-(4-cyano-phenyl)propionyl]-6-phenylsulphonamido-1,2,3,4-tetrahydro-quinoline
4.6 g 3-(4-cyano-phenylpropionic acid are dissolved with 2.8 g of N-methyl-morpholine in 120 ml of tetrahydrofuran and cooled to −35° C. To this solution are added 3.6 ml of isobutyl chloroformate, stirring is continued for half an hour and then at −40° C. 7.2 g of 6-phenylsulphonamido-1,2,3,4-tetrahydro-quinoline are added (see Example IV). After 2 hours the solution is slowly allowed to come back to ambient temperature and stirring is continued overnight. Then it is concentrated by evaporation and the residue is taken up in ethyl acetate and water. The organic phase is again washed with water, dried and concentrated by evaporation. The oil remaining is chromatographed over a silica gel column with ethyl acetate/petroleum ether (7:3).

reactant | 4-cyano-phenylpropionic acid | C(#N)C1=CC=C(C=C1)C(C(=O)O)C | C10H9NO2
reactant | N-methyl-morpholine | 2.8 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 3.6 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-phenylsulphonamido-1,2,3,4-tetrahydro-quinoline | 7.2 g | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C2CCCNC2=CC1 | C15H16N2O2S
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1-[3-(4-cyano-phenyl)propionyl]-6-phenylsulphonamido-1,2,3,4-tetrahydro-quinoline | C(#N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC=C1 | C25H23N3O3S
